US06737435B1
2,3-Dichloro-5-(bromomethyl)pyridine
2,3-Dichloro-5-(hydroxymethyl)pyridine (275 mg) was dissolved in dichloromethane (10 ml) and stirred in the presence of triphenylphosphine (444 mg) and tetrabromometliane (641 mg) overnight. The solution was concentrated in vacuo and the residue purified by column chromatography using isohexane: 2.5% ethyl acetate as eluent to yield the product as a white solid (270 mg, 73%). NMR: δ 4.75 (s, 2H), 8.25 (m, 1H), 8.5 (m, 1H); m/z 242 (M+H+).

reactant | 2,3-Dichloro-5-(hydroxymethyl)pyridine | 275 mg | ClC1=NC=C(C=C1Cl)CO | C6H5Cl2NO
reactant | triphenylphosphine | 444 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromometliane | 641 mg | BrC(Br)(Br)Br | CBr4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,3-Dichloro-5-(bromomethyl)pyridine | 270 mg, 73% | ClC1=NC=C(C=C1Cl)CBr | C6H4BrCl2N
